US05977178
(2E)-5-(tert-Butoxycarbonylamino)-5-methylhex-2-enoic acid (0.344 g; 1.41 mmol) was dissolved in methylene chloride (10 mL). 1-Hydroxy-7-azabenzotriazole (0.19 g; 1.41 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.298 g; 1.56 mmol) were added. The reaction mixture was stirred for 15 min at room temperature. (2R)-N-Methyl-2-methylamino-3-(1-naphthyl)-N-((1R)-2-phenyl-1-(((tetrahydrofuran-2-yl)methyl)carbamoyl)ethyl)-propionamide (0.67 g; 1.42 mmol) was dissolved in methylene chloride (10 mL) and added. Diisopropyletylamine (0.242 mL; 1.41 mmol) was added. The reaction mixture was stirred for 12 hours at room temperature. Methylene chloride (20 mL) was added. The reaction mixture was washed with water (30 mL), an aqueous solution of sodium hydrogen sulfate (10%; 30 mL), an aqueous solution of sodium hydrogen carbonate (pH 8; 30 mL) and dried (magnesium sulfate). The solvent was removed in vacuo and the residue was chromatographed on silica (3×30 cm) using methylene chloride/ethyl acetat (1:1) as eluent to afford 0.81 g of ((3E)-1,1-dimethyl-4-(methyl-((1R)-1-(methyl-((1R)-2-phenyl-1-(((tetrahydrofuran-2-yl)methyl)carbamoyl)ethyl)carbamoyl)-2(1-naphtyl)ethyl)-carbamoyl)but-3-enyl)carbamic acid tert butylester.

reactant | (2E)-5-(tert-Butoxycarbonylamino)-5-methylhex-2-enoic acid | 1.41 mmol, 0.344 g | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 1.41 mmol, 0.19 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.56 mmol, 0.298 g | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-N-Methyl-2-methylamino-3-(1-naphthyl)-N-((1R)-2-phenyl-1-(((tetrahydrofuran-2-yl)methyl)carbamoyl)ethyl)-propionamide | 1.42 mmol, 0.67 g | CN(C([C@@H](CC1=CC=CC2=CC=CC=C12)NC)=O)[C@H](CC1=CC=CC=C1)C(NCC1OCCC1)=O | C29H35N3O3
reactant | Diisopropyletylamine | 1.41 mmol, 0.242 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | ((3E)-1,1-dimethyl-4-(methyl-((1R)-1-(methyl-((1R)-2-phenyl-1-(((tetrahydrofuran-2-yl)methyl)carbamoyl)ethyl)carbamoyl)-2(1-naphtyl)ethyl)-carbamoyl)but-3-enyl)carbamic acid tert butylester | 0.81 g | C(C)(C)(C)OC(NC(C\C=C\C(N([C@H](CC1=CC=CC2=CC=CC=C12)C(N([C@H](CC1=CC=CC=C1)C(NCC1OCCC1)=O)C)=O)C)=O)(C)C)=O | C41H54N4O6
